US07595327B2
To a mixture of 3-amino-7-aza-bicyclo[2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester 2-methyl ester (0.2 g, 0.87 mmol] and 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride (0.4 g, 1.0 mmol) in N,N-dimethylformamide (DMF, 10 mL) at 0° C. was added N,N-diisopropylethylamine (0.4 mL, 2.23 mmol). The solution was allowed to warm up to 25° C. over 19 h. The DMF was removed in vacuo and the solid was partitioned between ethyl acetate (100 mL) and water (30 mL). The aqueous layer was washed with ethyl acetate (2×50 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified on a Biotage Flash 40S chromatography, eluting with 1:4 ethyl acetate-hexanes, to afford 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzene sulfonylamino]-7-aza-bicyclo [2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester-2-methyl ester as a white solid (0.150 g, 23.5%). MS: 582 (M+H)+.

reactant | 3-amino-7-aza-bicyclo[2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester 2-methyl ester | COC(=O)C1C2CCC(C1N)N2C(=O)OC(C)(C)C | C13H22N2O4
reactant | 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride | 1.0 mmol, 0.4 g | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl
reactant | N,N-diisopropylethylamine | 2.23 mmol, 0.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzene sulfonylamino]-7-aza-bicyclo [2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester-2-methyl ester | 0.150 g, 23.5% | COC(=O)C1C2CCC(C1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC3=CC=CC=C13)C)N2C(=O)OC(C)(C)C | C30H35N3O7S
